* Z:\mnt\design.r\spice\examples\1539.asc
XU1 N026 N017 OUT1 N001 N022 MP_01 N027 0 N008 N009 N021 N023 0 OUT2 OUT2 N018 N028 N005 N007 IN N002 N016 N012 N013 N003 N020 0 N001 N019 IN N014 N010 N015 N011 N004 N006 LTC1539
C1 N026 0 .01µ
C2 N027 0 100p
C3 N028 0 .01µ
M§Q1 IN N013 N012 N012 Si4410DY
M§Q2 IN N016 N012 N012 Si4410DY
M§Q3 N012 N020 0 0 Si4410DY
L1 N012 N018 10µ
D1 0 N012 1N5818
R1 N018 OUT2 .03
C4 N002 N012 .1µ
D2 N001 N002 1N5818
D3 N001 N011 1N5818
M§Q4 IN N014 N010 N010 Si4410DY
M§Q5 IN N015 N010 N010 Si4410DY
M§Q6 N010 N019 0 0 Si4410DY
L2 N010 N017 10µ
D4 0 N010 1N5818
R2 N017 OUT1 .03
C5 N011 N010 .1µ
C6 OUT1 0 220µ Rser=50m
C7 OUT2 0 220µ Rser=50m
R3 N025 0 10K
C8 N023 N025 1000p
C9 N025 0 470p
R4 N024 0 10K
C10 N022 N024 1000p
C11 N024 0 470p
C12 N018 OUT2 1000p
C13 N017 OUT1 1000p
Rload1 0 OUT1 10
Rload2 0 OUT2 10
Q7 N007 N005 IN 0 2N2907
R7 N007 0 10K
R8 IN N005 10K
V1 IN 0 20
C14 N007 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 7m startup
.lib LTC1539.sub
.backanno
.end
